US05789425
To a 10 ml dried methylene chloride solution of 0.57 g (2.24 mmol) of 1-(4-aminophenyl)-3-(3-pyridyl)-2-imidazolidinone in a 100 ml round-bottomed flask were added 0.34 ml (1.1 eg.) of triethylamine, and, after stirred for 15 minutes, 0.17 ml (1.1 eg.) of acetyl chloride were added dropwise under cooling with ice. After dropwise addition, the mixture was stirred for 8 hours at room temperature. To this reaction mixture were added 10 ml of saturated aqueous solution of sodium chloride, and the organic layer was separated. The organic layer was dried over anhydrous sodium sulfate and then solvent was distilled off under reduced pressure to obtain 0.16 g (yield 24%) of 1-(4-acetylaminophenyl)-3-(3-pyridyl)-2-imidazolidinone.

reactant | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
reactant | 1-(4-aminophenyl)-3-(3-pyridyl)-2-imidazolidinone | 2.24 mmol, 0.57 g | NC1=CC=C(C=C1)N1C(N(CC1)C=1C=NC=CC1)=O | C14H14N4O
reactant | acetyl chloride | 0.17 ml | C(C)(=O)Cl | C2H3ClO
reactant | sodium chloride | [Cl-].[Na+]
solvent | triethylamine | 0.34 ml | C(C)N(CC)CC | C6H15N
product | 1-(4-acetylaminophenyl)-3-(3-pyridyl)-2-imidazolidinone | 0.16 g, yield 24% | C(C)(=O)NC1=CC=C(C=C1)N1C(N(CC1)C=1C=NC=CC1)=O | C16H16N4O2
